US05250547
A solution of 6-nitro-2,2-dimethyl-3-bromomethyl-4-(2-oxo-1,2-dihydropyridin-1-yl)-2H-1-benzopyran (0.1 g, 0.255 mmol) in ethanol (2 ml) containing concentrated aqueous ammonium hydroxide solution (2 ml) was stirred at room temperature for four hours. The solvent was evaporated and the residue treated with ethanolic hydrochloric acid (2 ml) with heating. Crystallization was induced by addition of diethyl ether, giving 0.07 g of 6-nitro-2,2-dimethyl-3-aminomethyl-4-(2-oxo-1,2-dihydropyridin-1-yl)-2H-1-benzopyran as a hydrochloride salt, m.p. 231° C.

reactant | 6-nitro-2,2-dimethyl-3-bromomethyl-4-(2-oxo-1,2-dihydropyridin-1-yl)-2H-1-benzopyran | 0.255 mmol, 0.1 g | [N+](=O)([O-])C=1C=CC2=C(C(=C(C(O2)(C)C)CBr)N2C(C=CC=C2)=O)C1 | C17H15BrN2O4
reactant | ammonium hydroxide | 2 ml | [OH-].[NH4+]
solvent | ethanol | 2 ml | C(C)O | C2H6O
product | 6-nitro-2,2-dimethyl-3-aminomethyl-4-(2-oxo-1,2-dihydropyridin-1-yl)-2H-1-benzopyran | 0.07 g | [N+](=O)([O-])C=1C=CC2=C(C(=C(C(O2)(C)C)CN)N2C(C=CC=C2)=O)C1 | C17H17N3O4
